US04654352
3-(4-Methoxyphenyl)-benzo[b]thiophene
A solution of butyl lithium in hexane (15 ml, 1.6M; 24 mmole) was added to a stirred solution of 3-bromobenzothiophene (5 g, 23.5 mmole) in diethyl ether (70 ml) at -78° C. The mixture was stirred at -75° C. for 30 minutes and then a solution of anhydrous zinc chloride (3.2 g, 23.5 mmoles) in diethyl ether (70 ml) was added. The mixture was maintained at -70° C. for a further 30 minutes and 4-iodoanisole (5.2 g, 22.2 mmole) and tetrakis triphenylphosphine palladium (0) (1.4 g, 1.2 mmole) were then added. The reaction mixture was allowed to warm to room temperature and after one hour 2N hydrochloric acid (50 ml) was added. The organic phase was separated, washed with water (2×50 ml) and dried. The solvent was evaporated and the crude product chromatographed on silica to obtain the desired product (2.7 g).

reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 24 mmole, 1.6M, 15 ml | CCCCCC | C6H14
reactant | 3-bromobenzothiophene | 23.5 mmole, 5 g | BrC1=CSC2=C1C=CC=C2 | C8H5BrS
reactant | 4-iodoanisole | 22.2 mmole, 5.2 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 23.5 mmoles, 3.2 g | [Cl-].[Zn+2].[Cl-]
product | 3-(4-Methoxyphenyl)-benzo[b]thiophene | 2.7 g | COC1=CC=C(C=C1)C=1C2=C(SC1)C=CC=C2 | C15H12OS
